US09029544B2
(47) (3R,9S)-9-(tert-butyldimethylsilyloxy)-3-(3-fluoro-4-(trifluoromethyl)phenyl)-4-isopropyl-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]
Obtained by starting from (3R,9S)-9-(tert-butyldimethylsilyloxy)-3-(3-fluoro-4-(trifluoromethyl)phenyl)-3′-iodo-4-isopropyl-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]. 10% palladiumhydroxide on charcoal is used instead of 10% palladium on charcoal.

reactant | (3R,9S)-9-(tert-butyldimethylsilyloxy)-3-(3-fluoro-4-(trifluoromethyl)phenyl)-3′-iodo-4-isopropyl-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran] | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C(C)C)[C@H](OC31C(COCC1)I)C1=CC(=C(C=C1)C(F)(F)F)F | C33H44F4INO3Si
catalyst | palladiumhydroxide on charcoal | [OH-].[OH-].[Pd+2]
product | (3R,9S)-9-(tert-butyldimethylsilyloxy)-3-(3-fluoro-4-(trifluoromethyl)phenyl)-4-isopropyl-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran] | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C(C)C)[C@H](OC31CCOCC1)C1=CC(=C(C=C1)C(F)(F)F)F | C33H45F4NO3Si
